### PR TITLE
Prove not_tendsto_cdf_of_expanding_of_tendsto_not_isDegenerate

### PR DESCRIPTION
**Pull request by okkokko10**
#40

### CODE REVIEW

File: ExtremeValueProject/TypeOfCDF.lean [hunk 1]
```diff
@@ -183,7 +184,117 @@ lemma not_tendsto_cdf_of_expanding_of_tendsto_not_isDegenerate
...
+  have ⟨x1,x2,x1_lt_x2,Gx1_pos,Gx2_bound,x1_cont,x2_cont⟩:=
+    CumulativeDistributionFunction.exists₂_continuousAt_of_not_isDegenerate _ hG
+  have right_tendsto {z : ℝ} (z_spec_cont : ContinuousAt G' z) {s : ℕ → ℕ}
+      (s_atTop : Tendsto s atTop atTop) :
+      Tendsto (fun k ↦ (A (s k) • F (s k)) z) atTop (𝓝 (G' z)) := by
+    change Tendsto ((fun n ↦ (A n • F n) z) ∘ s) atTop (𝓝 (G' z))
+    have z_converge := nottrue z z_spec_cont
+    unfold Tendsto at z_converge ⊢
+    refine le_trans ?_ z_converge
+    exact fun ⦃u⦄ ↦ (s_atTop ·)
```
Comment (kkytola) [inline ExtremeValueProject/TypeOfCDF.lean:197]: This is the composition of `Filter.Tendsto`:

```suggestion
      Tendsto (fun k ↦ (A (s k) • F (s k)) z) atTop (𝓝 (G' z))  :=
    (nottrue z z_spec_cont).comp s_atTop
```

File: ExtremeValueProject/TypeOfCDF.lean [hunk 2]
```diff
@@ -183,7 +184,117 @@ lemma not_tendsto_cdf_of_expanding_of_tendsto_not_isDegenerate
...
+    unfold Tendsto
+    have x1_tendsto:= F_lim _ x1_cont
+    refine le_trans ?_ x1_tendsto
+    rw [(by rfl : (fun n ↦ F (s n) x1) = (fun n ↦ F n x1) ∘ s)]
+    exact fun ⦃u⦄ ↦ (s_atTop ·)
+  -- the names `lt` and `min` have lost their meaning.
+  have not_bounded_after' {B : ℕ → ℝ} {lt : ℝ → ℝ → Prop} {min : ℝ → ℝ → ℝ}
+      (not_bounded : ∀z, ∃ x, lt (B x) z )
+      (min_spec : ∀ ⦃a b c⦄, lt a (min b c) → a ≠ b ∧ lt a c)
+      (z) (t) : ∃ x ≥ t, lt (B x) z := by
```
Comment (kkytola) [inline ExtremeValueProject/TypeOfCDF.lean:210]: Your instinct to generalize here is great! This nicely simultaneously handles an essential piece in both `blaim_below` and `claim_above` below. (But as you mention, the naming lost its original meaning, and perhaps the generalized statement became less intuitive.)

I would probably choose a slightly different way to generalize, which is maybe not particularly efficient for this specific lemma and which also loses a little bit of generality compared to your version regarding the relation (I would only do bounded above / bounded below relations) but gains in generality by working with the `cofinite` filter rather than `atTop` filter (on `ℕ` these two filters coincide). But arguably the main advantage is that the generalization would remain intuitive (so it would hopefully be easier for other users to locate and it might be a natural part of proofs more often).

What I have in mind is to introduce the following lemmas before:
````
lemma _root_.forall_exists_apply_le_iff_forall_cofinite_frequently_apply_le
    {ι R : Type*} [LinearOrder R] [NoBotOrder R] (x : ι → R) :
    (∀ b, ∃ i, x i ≤ b) ↔ (∀ b, ∃ᶠ i in cofinite, x i ≤ b) := by
  refine ⟨fun h ↦ ?_, fun h b ↦ (h b).exists⟩
  by_contra con
  simp only [not_forall, not_frequently, not_le, eventually_cofinite, not_lt] at con
  obtain ⟨b', hb'⟩ := con
  let s : Finset ι := hb'.toFinset
  have s_nonempty : s.Nonempty := (hb'.toFinset_nonempty).mpr (h b')
  let b := Finset.min' (s.image (fun i ↦ x i)) (Finset.image_nonempty.mpr s_nonempty)
  obtain ⟨b'', hb''⟩ := exists_not_ge b
  obtain ⟨k, hk⟩ := h (min b' b'')
  by_cases k_cases : k ∈ s
  · have oops : b ≤ x k := Finset.min'_le (s.image x) (x k) (Finset.mem_image_of_mem x k_cases)
    exact lt_irrefl _ <| (oops.trans (le_inf_iff.mp hk).2).trans_lt (not_le.mp hb'')
  · simp only [s, Set.Finite.mem_toFinset, Set.mem_setOf_eq, not_le] at k_cases
    exact lt_irrefl _ <| k_cases.trans_le (le_inf_iff.mp hk).1

lemma _root_.forall_exists_le_apply_iff_forall_cofinite_frequently_le_apply
    {ι R : Type*} [LinearOrder R] [NoTopOrder R] (x : ι → R) :
    (∀ b, ∃ i, b ≤ x i) ↔ (∀ b, ∃ᶠ i in cofinite, b ≤ x i) :=
  forall_exists_apply_le_iff_forall_cofinite_frequently_apply_le (R := Rᵒᵈ) x

lemma _root_.Nat.forall_exists_apply_le_iff_forall_atTop_frequently_apply_le
    {R : Type*} [LinearOrder R] [NoBotOrder R] (x : ℕ → R) :
    (∀ b, ∃ i, x i ≤ b) ↔ (∀ b, ∃ᶠ i in atTop, x i ≤ b) := by
  convert forall_exists_apply_le_iff_forall_cofinite_frequently_apply_le x
  exact Nat.cofinite_eq_atTop.symm

lemma _root_.Nat.forall_exists_le_apply_iff_forall_atTop_frequently_le_apply
    {R : Type*} [LinearOrder R] [NoTopOrder R] (x : ℕ → R) :
    (∀ b, ∃ i, b ≤ x i) ↔ (∀ b, ∃ᶠ i in atTop, b ≤ x i) := by
  convert forall_exists_le_apply_iff_forall_cofinite_frequently_le_apply x
  exact Nat.cofinite_eq_atTop.symm
````

Then your `not_bounded_after'` becomes unnecessary, and where it is applied to, e.g., `claim_below`, one could do (essentially your original proof, just refactored to use `Nat.forall_exists_apply_le_iff_forall_atTop_frequently_apply_le`):
````
  obtain ⟨below, claim_below⟩ : ∃ below, ∀ n, A n x1 > below := by
    by_contra! not_bounded
    have not_bounded_after : ∀ (z : ℝ) (t : ℕ), ∃ n ≥ t, (A n x1) ≤ z := by
      intro z
      apply Frequently.forall_exists_of_atTop
      exact (Nat.forall_exists_apply_le_iff_forall_atTop_frequently_apply_le (fun n ↦ A n x1)).mp
                not_bounded z
    obtain ⟨z, _, _, z_spec_lt, _, z_spec_cont, _⟩ := G'.forall_pos_exists_lt_gt_continuousAt Gx1_pos
    obtain ⟨(s : ℕ → ℕ), (s_atTop : Tendsto s atTop atTop), (s_spec : ∀ (n : ℕ), A (s n) x1 ≤ z)⟩
      := subseq_forall_of_frequently tendsto_id (frequently_atTop.mpr (not_bounded_after z))
    have ineq (k) : F (s k) x1 ≤ (A (s k) • F (s k)) z := by
      rw [←mulAction_apply_eq_self_apply (F (s k)) (A (s k)) x1]
      exact (A (s k) • F (s k)).mono (s_spec k)
    exact (tendsto_le_of_eventuallyLE (left_tendsto x1_cont s_atTop)
      (right_tendsto z_spec_cont s_atTop) (Eventually.of_forall ineq)).not_lt z_spec_lt
````

File: ExtremeValueProject/TypeOfCDF.lean [hunk 3]
```diff
@@ -183,7 +184,117 @@ lemma not_tendsto_cdf_of_expanding_of_tendsto_not_isDegenerate
...
+      refine ⟨y, Nat.lt_iff_add_one_le.mp (Nat.lt_of_le_of_ne y_gt_t yyt), y_spec.right⟩
+  have ⟨below,claim_below⟩ : ∃ below, ∀ n, A n x1 > below := by
+    by_contra not_bounded
+    simp only [gt_iff_lt, not_exists, not_forall, not_lt] at not_bounded
+    have not_bounded_after := not_bounded_after' not_bounded
+      (lt := (· ≤ ·)) (min := (fun a b ↦ min (a - 1) b))
+      (by intro a b c abc ; constructor <;> linarith [le_inf_iff.mp abc] )
+    have ⟨z,z_spec_cont,z_spec_lt⟩ : ∃z, ContinuousAt G' z ∧ G' z < G x1 := by
+      have ⟨z,_,_,z_lt,_,z_cont,_⟩:= G'.forall_pos_exists_lt_gt_continuousAt Gx1_pos
+      use z
```
Comment (kkytola) [inline ExtremeValueProject/TypeOfCDF.lean:231]: You can `obtain` directly. 

```suggestion
    obtain ⟨z, _, _, z_spec_lt, _, z_spec_cont, _⟩ := G'.forall_pos_exists_lt_gt_continuousAt Gx1_pos
```

Also `obtain` is considered more appropriate for "data" (terms of type other than a `Prop`). The `have` tactic is meant to be used for `Prop`s. (This small style comment applies to many `have`s in  your code.)

File: ExtremeValueProject/TypeOfCDF.lean [hunk 4]
```diff
@@ -183,7 +184,117 @@ lemma not_tendsto_cdf_of_expanding_of_tendsto_not_isDegenerate
...
+      have Gx2_pos' : 0 < 1 - (G x2) := by linarith [Gx1_pos, G.mono x1_lt_x2.le]
+      have ⟨_,w,_,_,w_lt,_,w_cont⟩:= G'.forall_pos_exists_lt_gt_continuousAt Gx2_pos'
+      simp only [sub_sub_cancel] at w_lt
+      use w
+    have ⟨(s : ℕ → ℕ), (s_atTop : Tendsto s atTop atTop), (s_spec : ∀ (n : ℕ), A (s n) x2 ≥ z)⟩
+      := subseq_forall_of_frequently tendsto_id (frequently_atTop.mpr (not_bounded_after z))
+    have ineq (k) : F (s k) x2 ≥ (A (s k) • F (s k)) z := by
+      rw [←mulAction_apply_eq_self_apply (F (s k)) (A (s k)) x2]
+      set qf := A (s k) • F (s k)
+      exact (qf.mono) (s_spec k)
```
Comment (kkytola) [inline ExtremeValueProject/TypeOfCDF.lean:256]: Since `qf` is never used again, I would just inline it:

```suggestion
      exact (A (s k) • F (s k)).mono (s_spec k)
```

File: ExtremeValueProject/TypeOfCDF.lean [hunk 5]
```diff
@@ -183,7 +184,117 @@ lemma not_tendsto_cdf_of_expanding_of_tendsto_not_isDegenerate
...
+      refold_let x2x1
+      simp only [isUnit_iff_ne_zero, ne_eq, x2x1_positive.ne', not_false_eq_true,
+        IsUnit.mul_div_cancel_right]
+      rfl
+    simp_rw [an_value]
+    use (above - below) / x2x1
+    intro n
+    suffices ((A n) x2 - (A n) x1) < (above - below) by
+      exact (div_lt_div_iff_of_pos_right x2x1_positive).mpr this
+    linarith only [claim_below n, claim_above n]
```
Comment (kkytola) [inline ExtremeValueProject/TypeOfCDF.lean:280]: This seems simpler:

```suggestion
  have ⟨an_above, an_claim_above⟩ : ∃ a_above, ∀ n, a n < a_above := by
    use (above - below) / (x2 - x1)
    intro n
    have x2x1_positive : 0 < x2 - x1 := by linarith
    have an_value (n) : a n = (A n x2 - A n x1) / (x2 - x1) := by -- REVIEW COMMENT: easier this way
      field_simp [←mul_sub_left_distrib] ; rfl
    have aux : ((A n) x2 - (A n) x1) < (above - below) := by
      linarith only [claim_below n, claim_above n]
    simpa [an_value n] using (div_lt_div_iff_of_pos_right x2x1_positive).mpr aux
```

File: ExtremeValueProject/TypeOfCDF.lean [hunk 6]
```diff
@@ -183,7 +184,117 @@ lemma not_tendsto_cdf_of_expanding_of_tendsto_not_isDegenerate
...
+  clear * - a_lim an_claim_above
+  change ∀ (n : ℕ), a n < an_above at an_claim_above
```
Comment (kkytola) [inline ExtremeValueProject/TypeOfCDF.lean:282]: The `change` here doesn't seem to do anything...

```suggestion
```

File: ExtremeValueProject/TypeOfCDF.lean [hunk 7]
```diff
@@ -183,7 +184,117 @@ lemma not_tendsto_cdf_of_expanding_of_tendsto_not_isDegenerate
...
+  use (Set.Ioi an_above)
+  simp only [Set.mem_Ioi, not_lt, exists_prop, exists_and_right]
+  constructor
+  · use an_above + 1
+    intro _ _
+    linarith
+  · intro x
+    use x
+    simp only [le_refl, true_and]
+    apply (an_claim_above x).le
```
Comment (kkytola) [inline ExtremeValueProject/TypeOfCDF.lean:296]: This seems simpler:

```suggestion
  have impossible : ∀ᶠ n in atTop, a n ∈ Set.Ioi an_above := a_lim (Ioi_mem_atTop an_above)
  obtain ⟨m, (hm : an_above < a m)⟩ := impossible.exists
  apply lt_irrefl _ <| (an_claim_above m).trans hm
```

**Comment by kkytola** [comment]
Thank you!

Could you also mark Lemma 7.14 as `\leanok` and add your name to the author list of the file if you want?

**Comment by okkokko10** [comment]
which file?
Also, is this enough work or should I do more? Sorry if I'm late in asking this.

**Comment by kkytola** [comment]
> which file? Also, is this enough work or should I do more? Sorry if I'm late in asking this.

I meant the file `ExtremeValueProject/TypeOfCDF.lean` where the Lean proof went.

This is certainly enough! Thank you! (In fact I also sent you a Zulip message on Monday about that).

**Comment by okkokko10** [comment]
close #40
